US08236319B2
H-Glu(OtBu)-Gly-Gly-NH2
940 mg (2.09 mmol) of Z-Glu(OtBu)-Gly-GlyNH2 was dissolved in 40 mL of 95:5 methanol:de-ionized water in a 250 mL glass PARR hydrogenation shaker flak. 222 mg of 10% palladium on carbon was added to the flask and the contents were hydrogenated with shaking under hydrogen (40 PSI) for 4 hours. The mixture was vacuum filtered though celite filter aid and solvent was removed from the filtrate by rotary evaporation to give 640 mg (94%) of the title compound. 1H NMR (400 MHz, DMSO) δ 4.03 (s, 1H), 3.75 (d, J=3.3, 2H), 3.63 (s, 2H), 3.30-3.22 (m, J=3.6, 1H), 3.14-3.10 (m, 1H), 2.27 (t, J=7.9, 2H), 1.84 (td, J=13.6, 7.4, 1H), 1.63 (td, J=15.0, 7.5, 1H), 1.39 (s, 9H). 13C NMR (101 MHz, MeOD) δ 176.53, 174.24, 172.00, 170.32, 81.82, 55.21, 43.64, 43.16, 40.44, 32.31, 30.45, 28.41. HRMS (M+H+) Calc. 317.1825 found 317.1800.

reactant | Z-Glu(OtBu)-Gly-GlyNH2 | 2.09 mmol, 940 mg | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)NCC(=O)NCC(=O)N)C(=O)OCC1=CC=CC=C1 | C21H30N4O7
reactant | water | O | H2O
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 222 mg | [Pd] | Pd
product | H-Glu(OtBu)-Gly-Gly-NH2 | 640 mg, 94% | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)NCC(=O)NCC(=O)N | C13H24N4O5
